US04746354
5 g (0.013 mole) of N-[2-ethoxycarbonyl-2-acetylvinyl]-N'-(2,6-dichloro-4-trifluoromethyl-phenyl)-hydrazine are dissolved in 50 ml of ethanol, 1 ml of concentrated sulphuric acid is added and the mixture is heated for 1 hour under reflux. The reaction mixture is concentrated in vacuo, taken up in methylene chloride, washed with saturated sodium hydrogen carbonate solution, the methylene chloride phase is dried over magnesium sulphate and concentrated in vacuo. 4.1 g (86% of theory) of 4-ethoxycarbonyl-5-methyl-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-pyrazole with a melting point of 61°-62° C. are obtained.

reactant | N-[2-ethoxycarbonyl-2-acetylvinyl]-N'-(2,6-dichloro-4-trifluoromethyl-phenyl)-hydrazine | 0.013 mole, 5 g | C(C)OC(=O)C(=CNNC1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(C)=O | C14H13Cl2F3N2O3
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-ethoxycarbonyl-5-methyl-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-pyrazole | 4.1 g, 86% | C(C)OC(=O)C=1C=NN(C1C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H11Cl2F3N2O2
